US06492403B1
e) Methyl 4-(4-phenyl-1,3-thiazol-2-yl)thiophene-2-carboxylate
To a solution of 150 mg (0.745 mmol) of methyl 4-(aminothioxomethyl)-thiophene-2-carboxylate (as prepared in the previous step) in 6 mL of acetone was added 148 mg (0.745 mmol) of 2-bromoacetophenone. After refluxing for 2 h, the mixture was concentrated by boiling to a volume of ca. 2 mL. The resulting mixture was cooled (−10° C.) and filtered washing with cold acetone (2×0.5 mL). A second crop was obtained from the mother liquors and the combined crops dried to afford the title compound as a beige solid (202 mg, 90%). 1H-NMR (300 MHz, DMSO-d6) δ8.56 (d, 1H, J=1.5 Hz), 8.25 (d, 1H, J=1.5 Hz), 8.18 (s, 1H), 8.04 (d, 2H, J=7 Hz), 7.48 (t, 2H, J=7 Hz), 7.38 (t, 1H, J=7 Hz), and 3.89 (s, 3H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C15H11NO2S2: 302.0 (M+H). Found: 301.8.

reactant | methyl 4-(aminothioxomethyl)-thiophene-2-carboxylate | 0.745 mmol, 150 mg | NC(C=1C=C(SC1)C(=O)OC)=S | C7H7NO2S2
reactant | 2-bromoacetophenone | 0.745 mmol, 148 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | acetone | 6 mL | CC(=O)C | C3H6O
product | Methyl 4-(4-phenyl-1,3-thiazol-2-yl)thiophene-2-carboxylate | 202 mg, 90% | C1(=CC=CC=C1)C=1N=C(SC1)C=1C=C(SC1)C(=O)OC | C15H11NO2S2
